US07456164B2
1-acetyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile
Acetyl chloride (27 μl, 0.37 mmol) was added dropwise to a solution of 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile (90 mg, 0.28 mmol) and triethylamine (78 μl, 0.56 mmol) in dichloromethane (3 ml). The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with dichloromethane (15 ml) and washed with water (15 ml). The layers were separated and the aqueous layer was further extracted with dichloromethane (2×10 ml). The organics were combined, washed with brine, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate:methanol:ammonia (95:5:0.5 by volume) to provide the title compound (28 mg, 28%). 1H NMR (400 MHz, CD3OD) δ 1.82-1.85 (m, 4H), 1.89-2.18 (m, 9H), 2.60-2.63 (m, 4H), 2.69 (t, 2H), 3.00 (t, 1H), 3.50 (t, 1H), 4.03-4.12 (m, 3H), 4.70 (d, 1H), 6.97 (d, 2H), 7.44 (d, 2H). HRMS ESI+ m/z 356.2329 [MH]+.

reactant | Acetyl chloride | 0.37 mmol, 27 μl | C(C)(=O)Cl | C2H3ClO
reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | 0.28 mmol, 90 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCNCC1)C#N | C19H27N3O
reactant | triethylamine | 0.56 mmol, 78 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-acetyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | 28 mg, 28% | C(C)(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C21H29N3O2
